US04574126
4-Dimethylaminomethyl-2-chloromethylpyridine dihydrochloride is reacted with thiourea in ethanol under reflux. Removal of the ethanol yields 4-dimethylaminomethyl-2-pyridylmethyl isothiourea trihydrochloride.

reactant | 4-Dimethylaminomethyl-2-chloromethylpyridine dihydrochloride | Cl.Cl.CN(C)CC1=CC(=NC=C1)CCl
reactant | thiourea | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 4-dimethylaminomethyl-2-pyridylmethyl isothiourea trihydrochloride | Cl.Cl.Cl.CN(C)CC1=CC(=NC=C1)CNC(S)=N | InChI=1S/C10H16N4S.3ClH/c1-14(2)7-8-3-4-12-9(5-8)6-13-10(11)15;;;/h3-5H,6-7H2,1-2H3,(H3,11,13,15);3*1H
